US06720320B2
2-(4-(methoxymethyloxy)benzo(b)thiophen-2-yl)-5-methyl-1,3,4-oxadiazole
N′-(4-(Methoxymethyloxy)benzo(b)thiophen-2-ylcarbonyl)acetohydrazide (2.4 g) was dissolved in 1,2-dichloroethane (50 ml) and triphenylphosphine (3.2 g) and triethylamine (2 ml) were added. The mixture was stirred under ice-cooling. Diethyl azodicarboxylate (40% toluene solution) (5.2 g) was added and the mixture was stirred at room temperature for 1 hr. The reaction mixture was poured into ice water and extracted with chloroform. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title product (1.4 g) as pale-yellow crystals.

reactant | N′-(4-(Methoxymethyloxy)benzo(b)thiophen-2-ylcarbonyl)acetohydrazide | 2.4 g | COCOC1=CC=CC=2SC(=CC21)C(=O)NNC(C)=O | C13H14N2O4S
reactant | triphenylphosphine | 3.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
reactant | Diethyl azodicarboxylate | 5.2 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
product | 2-(4-(methoxymethyloxy)benzo(b)thiophen-2-yl)-5-methyl-1,3,4-oxadiazole | 1.4 g | COCOC1=CC=CC=2SC(=CC21)C=2OC(=NN2)C | C13H12N2O3S
